US05171744
(RS) Methyl 2-hydroxy-2-(thien-3-yl)acetate
A mixture of (RS) 2-hydroxy-2-(thien-3-yl)acetic acid (prepared as described in Akiv. Kemi., 58, 519, 1957) (6.32 g), methyl iodide (17 g) and potassium carbonate (6 g) in acetone was refluxed for 2 hours, evaporated under reduced pressure and the residue partitioned between ethyl acetate and water. The organic extracts, after drying over magnesium sulphate, were evaported to leave the title compound as a yellow oil (4.49 g, 67%).

reactant | (RS) 2-hydroxy-2-(thien-3-yl)acetic acid | 6.32 g | OC(C(=O)O)C1=CSC=C1 | C6H6O3S
reactant | methyl iodide | 17 g | CI | CH3I
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (RS) Methyl 2-hydroxy-2-(thien-3-yl)acetate | 4.49 g, 67% | OC(C(=O)OC)C1=CSC=C1 | C7H8O3S
